datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:61]([O-:10])=[O:62])C=C1.C1CC[C:20](=[O:21])CC1>>C1=CC=C([C:61]([O:10][C:20]2([O-:21])CCCCC2)=[O:62])C=C1 10=20;20,21=21"
"CC12C3(C)C4(C)C5(C)C1(C)[Cr-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC12C3(C)C4(C)C5(C)C1(C)[Cr-2:11]2345(C#[O+])(C#[O+])C#[O+].CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CC[O:92][C:71]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[N:12]1[CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:12]1=[CH:11][N:10]([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72]>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20]([C:21]1=[C:22](C(C)(C)C)[NH:23]C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[C:10]1=[C:11](\[O-:12])CCCCCCCCCC1)=[O:62].CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)CC(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)CCCCCCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12"
"CCC[O:62][Si:11](C)(C)[H:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CCC[O:62][Si+:11](C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12]>>C[C:11]([CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[N:12]1CCOCC1.C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:11](C1CC1)=[CH2:10]>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C)C2CC2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[Si:63]1(C)CC[CH:11]([H:10])[CH2:62]1>>CC(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].C[Si:63]1(C)CC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>C[C:22]1=[C:21]([CH:20]([CH2:10][CH+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(Cl)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(Cl)C=C2)=[O+:12]1.CC1=CC=[C:10]([C:20]2([O-:21])CCC2)S1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CC(C)(C)[O:33][C:22](=[CH:21][CH2:20][CH2:10][CH+:11][C:62]12C3([Si](C)(C)C)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72].COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>CC[O:92][C:71]([CH:10]([CH:20](C1=CC=C(OC)C=C1)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
